US08008307B2
Step d: 6-Chloro-7-methyl-8-phenyl-7H-purine
A suspension of N-(4-amino-6-chloropyrimidin-5-yl)-N-methylbenzamide (0.285 g, 0.00108 mol) in phosphoryl chloride (8 mL, 0.08 mol) was heated at 115° C. overnight. The mixture was cooled, concentrated and triturated in diethyl ether to obtain 224 mg (84.4%) yellow solid. LC/MS: Rt=1.30 min, ES+ 245.08 (AA standard).

reactant | N-(4-amino-6-chloropyrimidin-5-yl)-N-methylbenzamide | 0.00108 mol, 0.285 g | NC1=NC=NC(=C1N(C(C1=CC=CC=C1)=O)C)Cl | C12H11ClN4O
reactant | phosphoryl chloride | 0.08 mol, 8 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-Chloro-7-methyl-8-phenyl-7H-purine | 224 mg, 84.4% | ClC1=C2N(C(=NC2=NC=N1)C1=CC=CC=C1)C | C12H9ClN4
